US07173129B2
To a solution of [5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]methanol (Ex-57C, 5.8 g, 20 mmol) in 250 ml of THF and 250 ml of CH2Cl2, was added MnO2 (1.8 g, 20 mmol). The mixture was heated to reflux. The reaction was pushed to completion by adding two more portions of MnO2 (1.8 g each ) within 48 h. The mixture was then cooled to room temperature and filtered. The filtrate was concentrated and the residue was recrystallized from EtOAc/Hexane to give 5.1 g (88%) of 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehyde. 1H-NMR (300 MHz, DMSO-d6) δ 11.29 (br s, 1H), 10 24 (s, 1H), 8.10 (s, 1H), 7.47 (d, J=8 Hz, 1H), 7.37 (d, J=7 Hz, 1H), 7.01–7.05 (m, 1H), 6.91–6.95 (m, 1H), 6.85–6.86 (m, 2H), 4.06 (s, 3H), 3.99 (s, 3H). HRMS (EI) Calcd. for C17H15NO3: 281.1052 (M+); Found: 281.1046.

reactant | [5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]methanol | 20 mmol, 5.8 g | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)CO)OC)OC | C17H17NO3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 20 mmol, 1.8 g | O=[Mn]=O
catalyst | MnO2 | 1.8 g | O=[Mn]=O
product | 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehyde | 5.1 g, 88% | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
